US05089495
Using a similar procedure to that described in Example 1, 2-bromomethylquinoline was reacted with 2-[1 -(4-hydroxy-3-methoxyphenyl)-1-methoxypropyl]thiazole to give 2-[1-methoxy-1-[3-methoxy-4-(quinol-2-ylmethoxy)phenyl]propyl]thiazole in 52% yield, m.p. 100°-102° C. (recrystallised from a mixture of petroleum ether (b.p. 60°-80° C.) and methylene chloride).

reactant | 2-bromomethylquinoline | BrCC1=NC2=CC=CC=C2C=C1 | C10H8BrN
reactant | 2-[1 -(4-hydroxy-3-methoxyphenyl)-1-methoxypropyl]thiazole | OC1=C(C=C(C=C1)C(CC)(OC)C=1SC=CN1)OC | C14H17NO3S
product | 2-[1-methoxy-1-[3-methoxy-4-(quinol-2-ylmethoxy)phenyl]propyl]thiazole | 52% yield | COC(CC)(C1=CC(=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)OC)C=1SC=CN1 | C24H24N2O3S
